US04434096
Boc-D-Leu-Pro-Arg-S-Bzl (0.845 g), prepared in Step E above, is mixed with HCl for approximately 30 minutes to remove the Boc protecting group. The product is precipitated with ether to give 0.713 g of pure H-D-Leu-Pro-Arg-S-Bzl.2HCl.

reactant | Boc-D-Leu-Pro-Arg-S-Bzl | 0.845 g | N([C@H](CC(C)C)C(=O)N1[C@H](C(=O)N[C@@H](CCCNC(N)=N)C(=O)SCC2=CC=CC=C2)CCC1)C(=O)OC(C)(C)C | C29H46N6O5S
reactant | HCl | Cl | ClH
product | H-D-Leu-Pro-Arg-S-Bzl.2HCl | 0.713 g | N[C@H](CC(C)C)C(=O)N1[C@H](C(=O)N[C@@H](CCCNC(N)=N)C(=O)SCC2=CC=CC=C2)CCC1.Cl.Cl | InChI=1S/C24H38N6O3S.2ClH/c1-16(2)14-18(25)22(32)30-13-7-11-20(30)21(31)29-19(10-6-12-28-24(26)27)23(33)34-15-17-8-4-3-5-9-17;;/h3-5,8-9,16,18-20H,6-7,10-15,25H2,1-2H3,(H,29,31)(H4,26,27,28);2*1H/t18-,19+,20+;;/m1../s1
